US05506219
A. 3-(4-Fluorophenyl)-1-(pentafluorophenyl)-2-propen-1-one
A solution of sodium ethoxide (21% in EtOH, 0.32 gm, 4.76 mmol) was added to a mixture of 1-(pentafluorophenyl)-1-ethanone (5.91 gm, 47.6 mmol, Aldrich) and 4-fluorobenzaldehyde (10.00 gm, 47.6 mmol) stirring in ethanol (100 ml) under argon. The solution was allowed to stir at room temperature for 18 hours, then EtOH was evaporated to afford a yellowish, oily solid. The solid was redissolved in ether, washed with water and brine, then dried over MgSO4, filtered and concentrated to give a yellow residue. The residue was purified by flash chromatography on Merck silica gel in 5% EtOAc/hexane. Fractions containing the product were combined and concentrated to a yellow solid. The solid was recrystallized from hexane to afford the title compound as large yellow crystals (8.220 gm, 52%).

reactant | sodium ethoxide | 4.76 mmol, 0.32 gm | [O-]CC.[Na+]
reactant | 1-(pentafluorophenyl)-1-ethanone | 47.6 mmol, 5.91 gm | FC1=C(C(=C(C(=C1C(C)=O)F)F)F)F | C8H3F5O
reactant | 4-fluorobenzaldehyde | 47.6 mmol, 10.00 gm | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 3-(4-Fluorophenyl)-1-(pentafluorophenyl)-2-propen-1-one | 8.220 gm, 52% | FC1=CC=C(C=C1)C=CC(=O)C1=C(C(=C(C(=C1F)F)F)F)F | C15H6F6O
